US09126980B2
Step 6: 4-Chloro-1-[4-hydroxy-2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide
A mixture of 4-chloro-1-[2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-4-methoxy-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide (40 mg, 0.071 mmol) and aluminium chloride (75 mg, 0.56 mmol) was stirred in ethanethiol (0.052 mL, 0.71 mmol) and dichloromethane (0.5 mL) for 12 hours at ambient temperature under a nitrogen atmosphere. The mixture was added with water and extracted with 1:4 methanol:methylene chloride. The organic layer was removed in vacuo. After eluting through a short pad of silica gel column and C18 column, the crude material was purified by HPLC to afford the title compound (9 mg, 33% yield). MS (ESI) [m/e, (M+H)+]=553.5. 1H NMR (400 MHz, DMSO-d6) δ ppm 6.66-7.50 (m, 7H), 2.03-5.08 (m, 14H), 0.53-1.62 (m, 14H).

reactant | 4-chloro-1-[2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-4-methoxy-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide | 0.071 mmol, 40 mg | C(CCC)N(C(=O)C1=NN(C(=C1Cl)C)C1=C(C=C(C=C1)OC)C(=O)N1CC2=CC=CC=C2C[C@H]1CO)CCCC | C31H39ClN4O4
reactant | aluminium chloride | 0.56 mmol, 75 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethanethiol | 0.71 mmol, 0.052 mL | C(C)S | C2H6S
reactant | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-Chloro-1-[4-hydroxy-2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide | 9 mg, 33% yield | C(CCC)N(C(=O)C1=NN(C(=C1Cl)C)C1=C(C=C(C=C1)O)C(=O)N1CC2=CC=CC=C2C[C@H]1CO)CCCC | C30H37ClN4O4
